US07192774B2
To evaluate the activity of various promoters, GUS fluorescence was assayed by the method of Jefferson (1987). Maturing seeds at 17 DAF were homogenized in GUS extraction buffer (50 mM NaPO4 (pH 7.01, 10 mM 2-mercaptoethanol, 10 mM Na2-EDTA, 0.1% SDS, 0.1% Triton X-100). After centrifugation, 10 μl of the supernatant was mixed with 90 μl assay buffer containing 1 mM 4-methylumbelliferyl-β-D-glucuronide (MUG). After incubating for one hour at 37° C., 900 μl of 0.2 M Na2CO3 was added to the mixture to terminate the reaction. Values obtained using a fluorometer were compared with those obtained from serial dilutions of 4-methylumbelliferone (4MU). The protein amount was determined using a BIORAD Protein Assay kit, with serum albumin as the standard. Three seeds were assayed for each transgenic plant.

reactant | 4-methylumbelliferyl-β-D-glucuronide | 1 mM | CC1=CC(=O)OC2=C1C=CC(=C2)O[C@H]3[C@@H]([C@H]([C@@H]([C@H](O3)C(=O)O)O)O)O | C16H16O9
solvent | Na2CO3 | 0.2 M, 900 μl | C(=O)([O-])[O-].[Na+].[Na+]
product | 4-methylumbelliferone | CC1=CC(=O)OC2=C1C=CC(=C2)O | C10H8O3
